US06727264B1
2-METHYL-N-{3-[1-((5-[2-(TRIFLUOROMETHOXY)PHENYL]-2-FURYL}METHYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE:
Prepared by Procedure F and Scheme R using 5-[2-(trifluoromethoxy)phenyl]-2-furaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 487.1 (M+H)+.

reactant | 5-[2-(trifluoromethoxy)phenyl]-2-furaldehyde | FC(OC1=C(C=CC=C1)C1=CC=C(O1)C=O)(F)F | C12H7F3O3
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-{3-[1-((5-[2-(TRIFLUOROMETHOXY)PHENYL]-2-FURYL}METHYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC=1OC(=CC1)C1=C(C=CC=C1)OC(F)(F)F)C | C27H29F3N2O3
